US07985755B2
Step 2: 4-(2,6-Difluorophenoxy)cyclohexanecarboxylic Acid Ethyl Ester
4-Hydroxycyclohexanecarboxylic acid ethyl ester (300 mg; 1.7 mmol), triphenylphosphine (1 g; 4.2 mmol) and 2,6-difluorophenol (340 mg; 2.6 mmol) were stirred in anhydrous toluene and chilled to 0° C. under nitrogen flow. Diethyl azodicarboxylate (2 mL; 4.3 mmol) was added to the mixture over 1 minute and warmed to room temperature. Reaction continued for 16 hours. Reaction was quenched with water, and mixture was extracted with 4×5 mL with ethyl acetate. Combined organics were washed with brine and dried over MgSO4. Oily residue was triturated with diethyl ether and solids filtered off. Filtrate was concentrated at reduced pressure and purified via flash chromatography using 5-20% ethyl acetate in hexanes to give 162 mg of title compound. (34% yield).

reactant | 4-Hydroxycyclohexanecarboxylic acid ethyl ester | 1.7 mmol, 300 mg | C(C)OC(=O)C1CCC(CC1)O | C9H16O3
reactant | triphenylphosphine | 4.2 mmol, 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,6-difluorophenol | 2.6 mmol, 340 mg | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | Diethyl azodicarboxylate | 4.3 mmol, 2 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(2,6-Difluorophenoxy)cyclohexanecarboxylic Acid Ethyl Ester | 162 mg, 34% yield | C(C)OC(=O)C1CCC(CC1)OC1=C(C=CC=C1F)F | C15H18F2O3
